US09284331B2
9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione
9-iodo-1,3,4,7,8,12b-hexahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione. A suspension of 2-(1-(carboxymethyl)-5-iodo-3,4-dihydroisoquinolin-2(1H)-yl)-2-oxoethanaminium chloride (46.1 g, 112 mmol) and Et3N (95 mL, 682 mmol) in dry DMF (1.1 L) was treated with a solution of T3P in DMF (98 mL, 169 mmol) exothermic. The mixture was stirred at RT overnight. The mixture was then concentrated in vacuo and the residue obtained was taken up in AcOEt and diluted with an saturated aq. solution of NaHCO3. The aqueous phase was extracted with AcOEt and the combined org. layers were then washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to give a brown solid. The crude product obtained was suspended in MeOH and filtered. The filter cake was washed with MeOH and DCM, and then dried in vacuo to give the title compound (12.4 g) as a beige powder that was used as it is in the next step. UPLC-MS: MS 357.1 (M+H+); UPLC rt 0.73 min.

reactant | 9-iodo-1,3,4,7,8,12b-hexahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | IC1=C2CCN3C(C2=CC=C1)CC(NCC3=O)=O | C13H13IN2O2
reactant | 2-(1-(carboxymethyl)-5-iodo-3,4-dihydroisoquinolin-2(1H)-yl)-2-oxoethanaminium chloride | 112 mmol, 46.1 g | [Cl-].C(=O)(O)CC1N(CCC2=C(C=CC=C12)I)C(C[NH3+])=O
reactant | Et3N | 682 mmol, 95 mL | CCN(CC)CC | C6H15N
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | DMF | 1.1 L | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | CO | CH4O
solvent | DMF | 169 mmol, 98 mL | CN(C)C=O | C3H7NO
product | 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 12.4 g | IC1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C13H11IN2O2
